US04072688
Preparation of 2,5-diphenyl-3(2,3-dibromopropionyl) oxazolidine.
Four and five tenths grams of 2,5-diphenyl oxazolidine was dissolved in 50 ml. of methylene chloride and 5 g. of 2,3-dibromopropionyl chloride was added and the mixture stirred in an ice bath, while 2.1 g. of triethylamine was added dropwise. After standing for about 30 minutes, the mixture was washed with water, separated and dried over magnesium sulfate and stripped under vacuum. There was obtained a yield of 7.1 g. of an oil, the title compound, ND30 = 1.5734.

reactant | 2,5-diphenyl oxazolidine | C1(=CC=CC=C1)C1OC(CN1)C1=CC=CC=C1 | C15H15NO
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | 2,3-dibromopropionyl chloride | BrC(C(=O)Cl)CBr | C3H3Br2ClO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2,5-diphenyl-3(2,3-dibromopropionyl) oxazolidine | C1(=CC=CC=C1)C1OC(CN1C(C(CBr)Br)=O)C1=CC=CC=C1 | C18H17Br2NO2
